US06613786B2
Tin(II)chloride dihydrate (SnCl2.2H2O, 121 g, 0.54 mol) was dissolved in 300 ml concentrated HCl at −72° C. Diazo Red RC (Azoic Diazo No. 10, C.I. 37120, Fast Red RC Salt, Aldrich Chemical Co., 50 g, 0.18 mole) was added in portions with vigorous mechanical stirring. After the addition was complete, the reaction was stirred at 0° C. for three hours. The tan solid was filtered and washed with concentrated HCl, then stirred for 30 minutes in a mixture of 500 ml of dichloromethane and 500 ml 2N NaOH. The organic layer was separated, dried over sodium sulfate, concentrated under vacuum, and the resulting oil crystallized from 100 ml of diethyl ether to yield (5-chloro-2-methoxyphenyl)hydrazine (26.4 g, 84%). 1H NMR (300 MHz, CDCl3) δ6.96 (1H, d, J=2.4 Hz), 6.70 (1H, dd, 8.4, 2.4 Hz), 6.65 (1H, d, J=8.4 Hz), 3.81 (3H, s).

reactant | Tin(II)chloride dihydrate | 0.54 mol, 121 g | O.O.[Sn](Cl)Cl
reactant | Diazo Red RC | COC1=C(C=C(C=C1)Cl)[N+]#N.[Cl-]
reactant | C.I. 37120 | COC1=C(C=C(C=C1)Cl)N | C7H8ClNO
solvent | HCl | 300 ml | Cl | ClH
catalyst | Fast Red RC Salt | COC1=C(C=C(C=C1)Cl)[N+]#N.COC1=C(C=C(C=C1)Cl)[N+]#N.[Cl-].[Cl-].Cl[Zn]Cl
product | (5-chloro-2-methoxyphenyl)hydrazine | 26.4 g, 84% | ClC=1C=CC(=C(C1)NN)OC | C7H9ClN2O
